US04958026
20.2 g of 2-(7-nitro-1H-indazol-4-yl)-acetonitrile in 750 ml of tetrahydrofuran is hydrogenated in the presence of 20.0 g of Raney nickel. The product is recrystallized from tetrahydrofuran/hexane, yielding 15.1 g of 2-(7-amino-1H-indazol-4-yl)acetonitrile, mp 164°-165° C.

reactant | 2-(7-nitro-1H-indazol-4-yl)-acetonitrile | 20.2 g | [N+](=O)([O-])C=1C=CC(=C2C=NNC12)CC#N | C9H6N4O2
solvent | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 20.0 g | [Ni] | Ni
product | 2-(7-amino-1H-indazol-4-yl)acetonitrile | 15.1 g | NC=1C=CC(=C2C=NNC12)CC#N | C9H8N4
